US05998442
[2-(3-(t-butyldimethylsilyl)oxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone
By the method described in Example 1, [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]-methanone (1.6 g, 3.75 mmol) in THF (15 mL) was treated with a 0.6 M THF solution of 3-(t-butyldimethylsilyloxy)phenylmagnesium bromide (16 mL, 9.60 mmol) (prepared from the product of preparation 3, catalytic iodine, and magnesium turnings in THF) to provide, after chromatography (silica gel, 5-10% MeOH in CH2Cl2) 1.65 g (73%) of the title compound as a yellow oil: 1H NMR d 0.11 (s, 6H), 0.95 (s, 9H), 1.45 (m, 2H), 1.61 (m, 4H), 2.50 (m, 4H), 2.76 (t, J=5.9 Hz, 2H), 3.89 (s, 3H), 4.09 (t, J=5.9 Hz, 2H), 6.69 (d, J=8.5 Hz, 1H), 6.77 (d, J=8.5 Hz, 2H), 6.90 (s, 1H), 6.96-7.10 (m, 3H), 7.34 (m, 1H), 7.55 (d, J=8.8 Hz, 1H), 7.78 (d, J=8.2 Hz, 2H); MS (FD) m/e 601 (M+); Anal. calc'd. for C35H43NO4SSi: C, 69.85; H, 7.20; N, 2.33. Found: C, 69.83; H, 7.34; N, 2.34.

reactant | [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]-methanone | 3.75 mmol, 1.6 g | CN(C=1SC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)OC)C | C25H30N2O3S
reactant | 3-(t-butyldimethylsilyloxy)phenylmagnesium bromide | 9.60 mmol, 16 mL | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)[Mg]Br
reactant | iodine | II | I2
reactant | magnesium | [Mg] | Mg
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 0.6 M | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | [2-(3-(t-butyldimethylsilyl)oxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 1.65 g, 73% | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2 | C35H43NO4SSi
